US05036107
(R)-1-Cyclohexyl-1-phenyl-1-trimethylsiloxy-2-propanone
To a solution of 12 ml (95 mmoles) of trimethylsilyl chloride and 11.6 g (172 mmoles) of imidazole in 100 ml of DMF was added 20 g (86 mmoles) of (R)-1-cyclohexyl-1-hydroxy-1-phenyl-2-propanone. This mixture was heated to 85° C. overnight. The next day, the mixture was cooled and poured onto a mixture of 100 ml of petroleum ether and 100 ml of ether. This was extracted with water. The organic layer was separated, dried, and the solvent removed. The residue was chromatographed on silica gel with hexane as the eluent to give 18.0 g of clear oil. IR 2950, 1730 cm-1NMR (CDCl3) δ7.4(m, 5H), 2.3(t, 1H), 2.1(s, 3H), 1.9-1.0(m, 10H), 0.3(s, 9H).

reactant | trimethylsilyl chloride | 95 mmoles, 12 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | imidazole | 172 mmoles, 11.6 g | N1C=NC=C1 | C3H4N2
reactant | (R)-1-cyclohexyl-1-hydroxy-1-phenyl-2-propanone | 86 mmoles, 20 g | C1(CCCCC1)[C@](C(C)=O)(C1=CC=CC=C1)O | C15H20O2
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | (R)-1-Cyclohexyl-1-phenyl-1-trimethylsiloxy-2-propanone | 18.0 g | C1(CCCCC1)[C@@](C(C)=O)(O[Si](C)(C)C)C1=CC=CC=C1 | C18H28O2Si
